US03970597
1,6-diisocyanohexane was prepared by dehydration of N,N'-diformyl-(1,6-diaminohexane) with p-toluene sulfonyl chloride, essentially as described by Heztler and Covey (N. R. Heztler and E. J. Corey (1918), J. Org. Chem. 23 1222).

reactant | N,N'-diformyl-(1,6-diaminohexane) | C(=O)NCCCCCCNC=O | C8H16N2O2
reactant | p-toluene sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 1,6-diisocyanohexane | [N+](#[C-])CCCCCC[N+]#[C-] | C8H12N2
